US05952331
2-Amino-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine (288.3 mg) was dissolved in benzene (50 mL) and phenyl isocyanate (119.1 mg) was added. The reaction mixture was heated to reflux for 48 hours, and the solvent was removed under vacuum. The residue was chromatographed on silica gel, eluting with hexane/ethyl acetate, to yield 1-[4-(4-fluoronaphth-1-yl)-6-isopropyl-pyrimidin-2-yl]-3-phenylurea (49.1 mg), m.p. 117-178° C.

reactant | 2-Amino-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine | 288.3 mg | NC1=NC(=CC(=N1)C1=CC=C(C2=CC=CC=C12)F)C(C)C | C17H16FN3
reactant | phenyl isocyanate | 119.1 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 1-[4-(4-fluoronaphth-1-yl)-6-isopropyl-pyrimidin-2-yl]-3-phenylurea | 49.1 mg | FC1=CC=C(C2=CC=CC=C12)C1=NC(=NC(=C1)C(C)C)NC(=O)NC1=CC=CC=C1 | C24H21FN4O
